US04034098
N-(1-[2-(Indole-3-yl)ethyl]-4-piperidyl)methanesulphonamide
To 3-[2-(4-Amino-1-piperidyl)ethyl]indole (1.307 g.) suspended in a solution of triethylamine (2 mls.) in dichloromethane (10 mls.) at room temperature with stirring was added methane sulphonyl chloride (0.570 g.) in dichloromethane (5 mls.). After stirring for 18 hours the solution was washed with water and the organic phase separated, dried and evaporated to yield the title compound (1.690 g.) as an oil. This was recrystallised from ethanolic hydrogen chloride as the hydrochloride salt (0.560 g., m.p. 241°-242° C.).

reactant | 3-[2-(4-Amino-1-piperidyl)ethyl]indole | 1.307 g | NC1CCN(CC1)CCC1=CNC2=CC=CC=C12 | C15H21N3
reactant | triethylamine | 2 mls | C(C)N(CC)CC | C6H15N
reactant | methane sulphonyl chloride | 0.570 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 mls | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mls | ClCCl | CH2Cl2
product | N-(1-[2-(Indole-3-yl)ethyl]-4-piperidyl)methanesulphonamide | 1.690 g | N1C=C(C2=CC=CC=C12)CCN1CCC(CC1)NS(=O)(=O)C | C16H23N3O2S
